US07947690B2
To a mixture of tert-butyl 2-(4-chloro-2,5-difluorophenyl)-4-oxo-3,5,6,7-tetrahydro-4H-pyrrolo[3,4-d]pyrimidine-6-carboxylate, chloroform, and MeOH, 4M hydrogen chloride (HCl) in ethyl acetate (EtOAc) solution was added, and the resultant mixture was stirred at ambient temperature for 5 hours to yield 2-(4-chloro-2,5-difluorophenyl)-3,5,6,7-tetrahydro-4H-pyrrolo[3,4-d]pyrimidin-4-one hydrochloride.

reactant | tert-butyl 2-(4-chloro-2,5-difluorophenyl)-4-oxo-3,5,6,7-tetrahydro-4H-pyrrolo[3,4-d]pyrimidine-6-carboxylate | ClC1=CC(=C(C=C1F)C=1NC(C2=C(N1)CN(C2)C(=O)OC(C)(C)C)=O)F | C17H16ClF2N3O3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | MeOH | CO | CH4O
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-chloro-2,5-difluorophenyl)-3,5,6,7-tetrahydro-4H-pyrrolo[3,4-d]pyrimidin-4-one hydrochloride | Cl.ClC1=CC(=C(C=C1F)C=1NC(C2=C(N1)CNC2)=O)F | InChI=1S/C12H8ClF2N3O.ClH/c13-7-2-8(14)5(1-9(7)15)11-17-10-4-16-3-6(10)12(19)18-11;/h1-2,16H,3-4H2,(H,17,18,19);1H
